US06818651B2
1a. 1-[4-(4-Trifluoromethoxybenzenesulfonamido)-3-methoxyphenyl]-7-chloro-3,4-dihydroisoquinoline
28.7 mg of 1-(4-amino-3-methoxyphenyl)-7-chloro-3,4-dihydroisoquinoline are dissolved in 400 μl of dioxane, and 300 μl of a 0.33 molar solution of sodium carbonate are then added. 480 μl of a 0.25 molar solution of 4-trifluoromethoxybenzenesulfonyl chloride in dioxane are added to this mixture. The whole is stirred at RT for 16 h and the reaction mixture is loaded, at neutral pH, onto a cartridge containing 400 mg of diatomaceous earth and 300 mg of alumina. The product is eluted with 12 ml of dichloromethane. The eluate is concentrated and the residue is purified by flash chromatography on silica gel. 34 mg of the title compound are obtained.

reactant | 1-(4-amino-3-methoxyphenyl)-7-chloro-3,4-dihydroisoquinoline | 28.7 mg | NC1=C(C=C(C=C1)C1=NCCC2=CC=C(C=C12)Cl)OC | C16H15ClN2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-trifluoromethoxybenzenesulfonyl chloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
solvent | dioxane | 400 μl | O1CCOCC1 | C4H8O2
product | 1-[4-(4-Trifluoromethoxybenzenesulfonamido)-3-methoxyphenyl]-7-chloro-3,4-dihydroisoquinoline | 34 mg | FC(OC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)C1=NCCC2=CC=C(C=C12)Cl)OC)(F)F | C23H18ClF3N2O4S
